US07855215B2
Step 29.1: 4-Chloro-6-(quinolin-6-yloxy)-pyrimidin-2-ylamine
To a mixture containing 7.25 g (0.05 mol) 6-hydroxy-quinoline, 8.25 g (0.05 mol) 2-amino-4,6-dichloropyrimidine in 300 mL of water/acetone 1:1 are added 2.0 g (0.05 mol) sodium hydroxide. On heating a clear solution is first obtained from which a thick precipitate separates. Stirring under reflux is continued for a total of 6 h. The mixture is cooled, filtered and the solid washed with acetone/water 1.1 and dried. The title compound is obtained as a solid: map. 248-250° C.; MS: [M+1]+=273; HPLC: CtRet=1.30; TLC (dichloromethane/methanol 95:5): Rf=0.46.

reactant | 6-hydroxy-quinoline | 0.05 mol, 7.25 g | OC=1C=C2C=CC=NC2=CC1 | C9H7NO
reactant | 2-amino-4,6-dichloropyrimidine | 0.05 mol, 8.25 g | NC1=NC(=CC(=N1)Cl)Cl | C4H3Cl2N3
reactant | sodium hydroxide | 0.05 mol, 2.0 g | [OH-].[Na+]
solvent | water acetone | 300 mL | O.CC(=O)C
product | 4-Chloro-6-(quinolin-6-yloxy)-pyrimidin-2-ylamine | ClC1=NC(=NC(=C1)OC=1C=C2C=CC=NC2=CC1)N | C13H9ClN4O
